US07507743B2
1.2 Tert-Butyl 1-(2-hydroxyethyl)cyclopropylcarbamate
To a solution of 6.21 g (45.11 mmol) of 2-(1-amino-cyclopropyl)-ethanol hydrochloride (1:1) in 63 ml of tetrahydrofuran were added 1 ml of water, 12.68 ml (90.22 mmol) of triethylamine and 9.84 g (45.11 mmol) of di-tert-butyl dicarbonate in 21 ml of tetrahydrofuran. The resulting mixture was stirred at room temperature for 16 h. The mixture was evaporated, dissolved in 100 ml of diethyl ether and was treated with an aqueous hydrochloric acid solution (0.1 N). The combined extracts were washed with saturated aqueous sodium chloride and evaporated. The crude product was triturated with water and filtered to afford 6.68 g of pure product as a white solid. Mp: 93-95° C.

reactant | 2-(1-amino-cyclopropyl)-ethanol hydrochloride | 45.11 mmol, 6.21 g | Cl.NC1(CC1)CCO
reactant | water | 1 ml | O | H2O
reactant | triethylamine | 90.22 mmol, 12.68 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 45.11 mmol, 9.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 63 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | Tert-Butyl 1-(2-hydroxyethyl)cyclopropylcarbamate | 6.68 g | OCCC1(CC1)NC(OC(C)(C)C)=O | C10H19NO3
